US07696223B2
c) [(4-Hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 340 (M+H)+.

reactant | 4-hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CCC2=CC=CC=C2)O | C18H18N2O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(4-Hydroxy-1-phenethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | OC1=C2C(=CN=C1C(=O)NCC(=O)O)N(C=C2)CCC2=CC=CC=C2 | C18H17N3O4
